US07807709B2
N-((3S,4S)-4-{[(3-Acetylamino-3-methyl-butyryl)-cyclopropyl-amino]-methyl}-pyrrolidin-3-ylmethyl)-N-isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzamide
ZnBr2 (110 mg, 0.49 mmol) is added to a solution of (3R,4R)-3-{[(3-acetylamino-3-methyl-butyryl)-cyclopropyl-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (150 mg, 0.22 mmol) in 1,2-dichloroethane (5 mL) and the resulting suspension is stirred at 55° C. for 16 h. In order to drive the reaction to completion another portion of ZnBr2 (50 mg, 0.22 mmol) is added and heating is continued for another 24 h. For workup a sat. solution of NaHCO3 is added and the mixture is extracted with CH2Cl2. Drying (Na2SO4) of the combined extracts, filtration and evaporation of the solvent affords the desired product as free base. The free base is dissolved in dioxane (2 mL) and fumaric acid (11 mg, 0.11 mmol) is added. Lyophilization yields the title compound as hemifumarate salt. MS (LC-MS): 575.0 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 4.90 min.

reactant | (3R,4R)-3-{[(3-acetylamino-3-methyl-butyryl)-cyclopropyl-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.22 mmol, 150 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C1CC1)C(CC(C)(C)NC(C)=O)=O | C36H58N4O8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
catalyst | ZnBr2 | 0.49 mmol, 110 mg | [Zn+2].[Br-].[Br-]
catalyst | ZnBr2 | 0.22 mmol, 50 mg | [Zn+2].[Br-].[Br-]
product | N-((3S,4S)-4-{[(3-Acetylamino-3-methyl-butyryl)-cyclopropyl-amino]-methyl}-pyrrolidin-3-ylmethyl)-N-isopropyl-4-methoxy-3-(3-methoxy-propoxy)-benzamide | C(C)(=O)NC(CC(=O)N(C1CC1)C[C@H]1[C@@H](CNC1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)(C)C | C31H50N4O6
